US06933403B2
In the solution of 220 g(2 mol) of hydroquinone in 500 ml of glycol dibutyl ether, 140.5 g(1 mol) of benzoyl chloride was drop-added for one hour while agitating the solution at 110° C. The mixture was maintained at 110° C. for two hours, and diethylene glycol dibutyl ether was distilled under vacuum. 1 liter of methylene chloride was added to the reaction mixture, and the unreacted excess hydroquinone was filtered and collected (recovered amount: 110 g, recycled without any purification process). A desired mono benzoyl hydroquinone was obtained by evaporating the residue under vacuum. (Yield: 207.0 g(97%). mp: 160-162° C., 1H-NMR(300 MHz, CDCl3, ppm) 5.80 (br, 1H), 6.72 (d,2H), 6.89 (d, 2H), 7.44-7.48 (m, 1H), 7.49-7.56 (m, 1H), 8.16 (d, 2H).

reactant | hydroquinone | 2 mol, 220 g | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | benzoyl chloride | 1 mol, 140.5 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | glycol dibutyl ether | 500 ml | CCCCOCCOCCCC | C10H22O2
product | mono benzoyl hydroquinone | C(C1=CC=CC=C1)(=O)C1=C(O)C=CC(=C1)O | C13H10O3
